US07491735B2
2-(Trimethylsilyl)thiazole (1.0 g, 6.36 mmol) and 4-formyl-cyclohexanecarboxylic acid tert-butyl ester (1.63 g, 7.63 mmol) were stirred at room temperature for 4 hours. THF (50 mL) and TBAF (1M in THF, 7.6 mL, 7.6 mmol) were added and the mixture stirred for an additional hour. Standard work-up and purification afforded 4-(hydroxy-thiazol-2-yl-methyl)-piperidine-1-carboxylic acid tert-butyl ester as a beige syrup (940 mg, 50%).

reactant | 2-(Trimethylsilyl)thiazole | 6.36 mmol, 1.0 g | C[Si](C=1SC=CN1)(C)C | C6H11NSSi
reactant | 4-formyl-cyclohexanecarboxylic acid tert-butyl ester | 7.63 mmol, 1.63 g | C(C)(C)(C)OC(=O)C1CCC(CC1)C=O | C12H20O3
reactant | TBAF | 7.6 mmol, 1M, 7.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(hydroxy-thiazol-2-yl-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 940 mg, 50% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C=1SC=CN1)O | C14H22N2O3S
